US04224325
Preparation of 3-carbamoyl-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine
A mixture of 1.53 g (0.01 moles) of 3-carbamoyl-6-pyridazinyl-hydrazine, 1.1 g (0.011 moles) of acetylacetone and 15 ml ethanol is heated to reflux under stirring for 3 hours. After cooling the separated crystals are filtered, washed with ethanol and dried. Yield: 2.05 g (95%); m.p.: 256°-257° C.

reactant | 3-carbamoyl-6-pyridazinyl-hydrazine | 0.01 moles, 1.53 g | C(N)(=O)C=1N=NC(=CC1)NN | C5H7N5O
reactant | acetylacetone | 0.011 moles, 1.1 g | C(C)(=O)CC(C)=O | C5H8O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-carbamoyl-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine | C(N)(=O)C=1N=NC(=CC1)N1N=C(C=C1C)C | C10H11N5O
